US09422240B2
4-Cyclobutylbenzaldehyde
To a mixture of 4-iodobenzaldehyde (500 mg), bis(triphenylphosphine)palladium(II) dichloride (75.6 mg), copper(I) iodide (24.6 mg) and dehydrated tetrahydrofuran (10.0 mL), cyclobutylzinc bromide (0.5 mol/L, solution in tetrahydrofuran, 6.46 mL) was added and the mixture was stirred in a sealed tube at 60° C. for 14 hours. After cooling to room temperature, the precipitate was removed by filtration through Celite (registered trademark). The filtrate was concentrated under reduced pressure and thereafter purified by silica gel column chromatography (n-hexane:ethyl acetate=98:2-90:10) to give the titled compound as a colorless oil (225 mg).

reactant | 4-iodobenzaldehyde | 500 mg | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | cyclobutylzinc bromide | 0.5 mol/L, 6.46 mL | [Br-].C1(CCC1)[Zn+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 75.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 24.6 mg | [Cu]I
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
product | 4-Cyclobutylbenzaldehyde | 225 mg | C1(CCC1)C1=CC=C(C=O)C=C1 | C11H12O
